US04517195
1-(N-Methyl-bromoacetamido)-2-(2-chlorobenzoyl)-5-methylpyrrole
A stirred slurry of 2-(2-chlorobenzoyl)-1-methylamino-5-methylpyrrole (18.7 g, 75 mmol) and sodium bicarbonate (14.2 g, 170 mmol) in 100 ml of dichloromethane was treated with a solution of bromoacetyl bromide (15.2 g, 90 mmol) in 30 ml of dichloromethane over 30 minutes and stirred at room temperature overnight. The reaction mixture was quenched with 100 ml of H2O, separated, washed with H2O and brine, dried (MgSO4), filtered, and evaporated. The resultant oil was purified by HPLC (silica, 1:1 ethyl actate-hexane) to give an oil which crystallized from ether to give 22.7 g (82%) of needles, m.p. 108°-109°.

reactant | 2-(2-chlorobenzoyl)-1-methylamino-5-methylpyrrole | 75 mmol, 18.7 g | ClC1=C(C(=O)C=2N(C(=CC2)C)NC)C=CC=C1 | C13H13ClN2O
reactant | sodium bicarbonate | 170 mmol, 14.2 g | C([O-])(O)=O.[Na+]
reactant | bromoacetyl bromide | 90 mmol, 15.2 g | BrCC(=O)Br | C2H2Br2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(N-Methyl-bromoacetamido)-2-(2-chlorobenzoyl)-5-methylpyrrole | 22.7 g, 82% | CN(C(CBr)=O)N1C(=CC=C1C)C(C1=C(C=CC=C1)Cl)=O | C15H14BrClN2O2
